US04954508
4,7-dihydro-1,6-dimethyl-4-(2,5-dimethylphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride.
Starting from 1-methyl-3-phenyl-5-pyrazolamine and ethyl-2-(2,5-dimethylbenzyliden)acetoacetate in equimolar proportions. The crude reaction product is taken up with ethyl ether, washed with 2% H2SO4, water, and then 5% NaHCO3 until neutralization of the mother liquors. After drying over Na2SO4 the hydrochloride of the title compound is obtained by reacting with HCl/ethyl ether. Crystallization from isopropanol/ethyl ether.

reactant | 1-methyl-3-phenyl-5-pyrazolamine | CN1N=C(C=C1N)C1=CC=CC=C1 | C10H11N3
reactant | ethyl-2-(2,5-dimethylbenzyliden)acetoacetate | C(C)OC(C(C(=O)C)=CC1=C(C=CC(=C1)C)C)=O | C15H18O3
reactant | HCl ethyl ether | Cl.C(C)OCC
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4,7-dihydro-1,6-dimethyl-4-(2,5-dimethylphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(C2=C(NC1C)N(N=C2C2=CC=CC=C2)C)C2=C(C=CC(=C2)C)C | InChI=1S/C25H27N3O2.ClH/c1-6-30-25(29)20-17(4)26-24-22(21(20)19-14-15(2)12-13-16(19)3)23(27-28(24)5)18-10-8-7-9-11-18;/h7-14,21,26H,6H2,1-5H3;1H
